US05631257
1-Benzyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide
A 300 mg portion of 2-(4-methyl-1-piperazinyl)-benzoxazole was dissolved in 5 ml of THF. Under cooling with ice, 354 mg of benzyl bromide was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 22 hours at room temperature. The thus formed precipitate was collected by filtration and washed with acetone. The filtrate was concentrated under a reduced pressure, and the resulting residue was dissolved in 50 ml of water, washed with ethyl acetate and then lyophilized to obtain 496 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)-benzoxazole | CN1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C12H15N3O
reactant | benzyl bromide | 354 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide | 496 mg | [Br-].C(C1=CC=CC=C1)[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C19H22N3O.BrH/c1-22(15-16-7-3-2-4-8-16)13-11-21(12-14-22)19-20-17-9-5-6-10-18(17)23-19;/h2-10H,11-15H2,1H3;1H/q+1;/p-1
